US06399606B1
Methyl 4-Oxo-4-(3-Pyridyl)butanoate
A solution of 3-pyridinecarboxaldehyde (10.7 g) in dimethyl formamide (DMF, 20 mL) was added over 10 min. to a stirred solution of sodium cyanide (2.45 g) in DMF (80 mL) at room temperature under dry nitrogen. The solution was stirred for 30 min. and methyl acrylate (18.6 g) in DMF (80 mL) was added dropwise over 50 min. The reaction mixture was stirred for 3 h. Acetic acid (6.6 mL) and water (30 mL) were added and stirring was continued for 5 minutes. The mixture was concentrated, dissolved in water (360 mL), and pH was adjusted to 7.5 with sodium bicarbonate. The aqueous layer was extracted with chloroform (3×300 mL). The chloroform layers were combined, washed with saturated sodium chloride solution (brine), dried (MgSO4), filtered, concentrated and purified by flash chromatography (SiO2, 30% ethyl acetate in hexanes) to yield 4.3 g (22%) of the title compound; ESMS (M+1)+194.

reactant | 3-pyridinecarboxaldehyde | 10.7 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium cyanide | 2.45 g | [C-]#N.[Na+]
reactant | methyl acrylate | 18.6 g | C(C=C)(=O)OC | C4H6O2
reactant | Acetic acid | 6.6 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
solvent | DMF | 80 mL | CN(C=O)C | C3H7NO
solvent | DMF | 80 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | Methyl 4-Oxo-4-(3-Pyridyl)butanoate | 4.3 g, 22% | O=C(CCC(=O)OC)C=1C=NC=CC1 | C10H11NO3
